US06465588B1
Synthesis of N-(2-Pyrrolidon-1-ylmethyl)acrylamide (PyMAm)
A mixture of 65.6 g of 1-methoxymethyl-2-pyrrolidone, 75.5 g of acrylarnide, 0.20 g of p-toluene sulfonic acid and 0.20 g of phenothiazine was stirred under N2 atmosphere at 150° C. for 1 hour, during which time the methanol was removed by distillation. The residue was cooled, and recrystallized from acetone to give the title compound in a yield of 40%. mp: 73-74° C.

reactant | 1-methoxymethyl-2-pyrrolidone | 65.6 g | COCN1C(CCC1)=O | C6H11NO2
reactant | acrylarnide | 75.5 g | C(C=C)(=O)N | C3H5NO
reactant | p-toluene sulfonic acid | 0.20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | phenothiazine | 0.20 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | methanol | CO | CH4O
product | N-(2-Pyrrolidon-1-ylmethyl)acrylamide | yield of 40% | N1(C(CCC1)=O)CNC(C=C)=O | C8H12N2O2
